US06034275
Aa) A solution of 5.6 ml of 2-fluoroanisole in 60 ml of absolute THF is cooled to -78° C. and treated within 15 min. with 31.3 ml of 1.6M butyllithium in hexane. After 15 min. 8.7 g of 1,1,4,7,7-pentamethyldiethylenetriamine are added dropwise and, after a further 2 hrs. at -78° C., 9.4 ml of methyl iodide are added dropwise. The mixture is stirred at -78° C. overnight, then evaporated and taken up in ether/1N hydrochloric acid. The aqueous phase is extracted with ether and the organic phase is dried over sodium sulphate and evaporated in order to give crude 2-fluoro-3-methyl-anisole. 30 ml of nitrobenzene are cooled in an ice bath and then treated in succession with 8.1 g of aluminium chloride and 11.9 g of 4-bromobenzoyl chloride in 9 ml of nitrobenzene at a maximum 6° C. The mixture is stirred and then the 2-fluoro-3-methyl-anisole is added in such a manner that the temperature does not rise above 6° C. The solution is left to warm to room temperature overnight, poured into ice-water/ ethyl acetate and washed with 10% aqueous sodium chloride solution, dried and concentrated. After chromatography over silica gel with hexane/ether (95/5) as the eluent and crystallization from hexane there are obtained 4.0 g of (4-bromo-phenyl)-(3-fluoro-4-methoxy-2-methyl-phenyl)-methanone, m.p. 93-95° C.

reactant | 2-fluoroanisole | 5.6 ml | FC1=C(C=CC=C1)OC | C7H7FO
reactant | butyllithium | 1.6M, 31.3 ml | C(CCC)[Li]
reactant | 1,1,4,7,7-pentamethyldiethylenetriamine | 8.7 g | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | methyl iodide | 9.4 ml | CI | CH3I
reactant | aluminium chloride | 8.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromobenzoyl chloride | 11.9 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 2-fluoro-3-methyl-anisole | FC1=C(C=CC=C1C)OC | C8H9FO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | nitrobenzene | 9 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 30 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (4-bromo-phenyl)-(3-fluoro-4-methoxy-2-methyl-phenyl)-methanone | 4.0 g | BrC1=CC=C(C=C1)C(=O)C1=C(C(=C(C=C1)OC)F)C | C15H12BrFO2
